US04061641
1-Phenyl-3-[1-(2-[3-indolyl]ethyl)piperid-4-yl] thiourea
4-Amino-1-[2-(3-indolyl)ethyl]piperidine hydrate (1.31 g, 0.005 mole) was dissolved in benzene (125 ml) and phenyl isothiocyanate (0.74g, 0.0055 mole) added dropwise with stirring. After 24 hr., the mixture was filtered to give the title compound (free base) as a white amorphous solid (1.76g). This was dissolved in a minimum of hot ethanol, saturated ethanol-HCl added until acid, and then the solution allowed to crystallise. Filtration afforded the title compound hydrochloride as colourless prisms (1.75g), m.p. 224.8°.

reactant | 4-Amino-1-[2-(3-indolyl)ethyl]piperidine hydrate | 0.005 mole, 1.31 g | O.NC1CCN(CC1)CCC1=CNC2=CC=CC=C12
reactant | phenyl isothiocyanate | 0.0055 mole, 0.74g | C1(=CC=CC=C1)N=C=S | C7H5NS
solvent | benzene | 125 ml | C1=CC=CC=C1 | C6H6
product | 1-Phenyl-3-[1-(2-[3-indolyl]ethyl)piperid-4-yl] thiourea | C1(=CC=CC=C1)NC(=S)NC1CCN(CC1)CCC1=CNC2=CC=CC=C12 | C22H26N4S
